US03983239
Preparation of 8-ethyl-2-[γ-(p-fluorobenzoyl)propyl]-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
To methyl ethyl ketone (120 ml) are added 8-ethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (9 g), γ-(p-fluorobenzoyl)propyl chloride (12 g), potassium carbonate (12 g) and potassium iodide (11 g), and the mixture is refluxed with stirring for 9 hours. After cooling, the insoluble materials are filtered off and the filtrate is concentrated. The resulting residue is dissolved in a dilute hydrochloric acid and the solution is washed with benzene. The dilute hydrochloric acid layer is made alkaline with aqueous ammonia and extracted with benzene. The benzene layer is dried over anhydrous sodium sulfate and concentrated. The resulting residue is treated with ethanolic hydrochloric acid in the same manner as described in Example 1 (1) to give the dihydrochloride of the titled compound (12 g), m.p. 192° - 195°C (recrystallized from aqueous ethanol).

reactant | 8-ethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 9 g | C(C)C1=CC=2C3C(NC2C=C1)CCNC3 | C13H18N2
reactant | γ-(p-fluorobenzoyl)propyl chloride | 12 g | FC1=CC=C(C(=O)CCCCl)C=C1 | C10H10ClFO
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 11 g | [I-].[K+]
solvent | methyl ethyl ketone | 120 ml | C(C)C(=O)C | C4H8O
product | 8-ethyl-2-[γ-(p-fluorobenzoyl)propyl]-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | C(C)C1=CC=2C3C(NC2C=C1)CCN(C3)CCCC(C3=CC=C(C=C3)F)=O | C23H27FN2O
